US04351842
A mixture of 2,3-naphthalenedicarboxylic anhydride (35.5 g), methylmalonic acid (25 g) and triethylamine (250 ml) was stirred and refluxed for 8 hr. The cooled reaction mixture was poured onto 10% hydrochloric acid (2 liter) and the aqueous slurry was extracted with chloroform (1.5 liter). The dried (magnesium sulphate) extract was evaporated to dryness to give an oil which was recrystallised from light petroleum (b.p. 60°-80°)/chloroform to give 3-(1'-oxopropyl)naphthalene-2-carboxylic acid (23 g, m.p. 147°).

reactant | 2,3-naphthalenedicarboxylic anhydride | 35.5 g | C1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C12H6O3
reactant | methylmalonic acid | 25 g | CC(C(=O)O)C(=O)O | C4H6O4
reactant | hydrochloric acid | 2 liter | Cl | ClH
solvent | triethylamine | 250 ml | C(C)N(CC)CC | C6H15N
product | 3-(1'-oxopropyl)naphthalene-2-carboxylic acid | 23 g | O=C(CC)C=1C(=CC2=CC=CC=C2C1)C(=O)O | C14H12O3
